US04097487
By following general method B using 1.0 g. of 4-amino-5-chloro-2-methoxybenzoic acid and 1.2 g. of N-(2',4'-dichlorophenylmethyl)-N-ethylethylenediamine, 1.6 g. of N-[2-(N'-2',4'-dichlorophenylmethyl)-N'-ethylamino)ethyl]-4-amino-5-chloro-2-methoxybenzamide was obtained.

reactant | 4-amino-5-chloro-2-methoxybenzoic acid | NC1=CC(=C(C(=O)O)C=C1Cl)OC | C8H8ClNO3
reactant | N-(2',4'-dichlorophenylmethyl)-N-ethylethylenediamine | ClC1=C(C=CC(=C1)Cl)CN(CCN)CC | C11H16Cl2N2
product | 4-amino-5-chloro-2-methoxybenzamide | NC1=CC(=C(C(=O)N)C=C1Cl)OC | C8H9ClN2O2
